US06486141B2
To a solution of LDA [prepared from diisopropylamine (3.5 mL, 24.5 mmol) and 2.2M n-butyllithium in hexanes (12 mL, 26.4 mmol)] in THF (120 mL) at −78° C. was added a solution of 4′-methyl-biphenyl dimethyl phosphate (6.1 g, 20.9 mmol) in THF (20 mL). The mixture was stirred at −78° C. for 1 h and then at r.t. for 1 h. After quenching with 2M aqueous HOAc (10 mL), solvent was removed in vacuo. The residue was diluted with H2O and extracted with EtOAc. The EtOAc extract was washed with H2O (2×), dried (MgSO4) and concentrated. Chromatography over silica gel and elution with hexanes:EtOAc (3:2) provided 1.3 g of 4′-methyl-4-hydroxybiphenyl. Further elution gave 4.0 g (65.5%) of the title compound as a white solid.

reactant | LDA | 24.5 mmol, 2.2M, 3.5 mL | [Li+].CC(C)[N-]C(C)C
reactant | 4′-methyl-biphenyl dimethyl phosphate | 20.9 mmol, 6.1 g | COP(=O)(OC)O.CC1=CC=C(C=C1)C1=CC=CC=C1
solvent | THF | 120 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4′-methyl-4-hydroxybiphenyl | 1.3 g | CC1=CC=C(C=C1)C1=CC=C(C=C1)O | C13H12O
